US05096899
3-(2-Amino-1,1-dimethylethyl)-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid
A solution of 21 mg (0.054 mmol) of p-nitrobenzyl 3-(2-azido-1,1-dimethylethyl)-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate in 1 ml of ethyl acetate is added via a syringe through a septum stopper to a prehydrogenated mixture, at 0° C., of 60 mg of palladium on charcoal (10%) in 1 ml of ethyl acetate and 0.7 ml of water. After a reaction time of 20 minutes, 5.7 ml of hydrogen have been taken up (theoretical amount 4.9 ml). The reaction mixture is filtered at 0° C., and the aqueous phase is washed twice with 2 ml of pre-cooled ethyl acetate. The aqueous phase contains 8.96 mg of the title compound. UV spectrum in H2O: λmax =271 nm (ε=5000)

reactant | p-nitrobenzyl 3-(2-azido-1,1-dimethylethyl)-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.054 mmol, 21 mg | N(=[N+]=[N-])CC(C)(C)C1=C(N2C(CC2O1)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H17N5O6
reactant | hydrogen | 5.7 ml | [H][H] | H2
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 60 mg | [Pd] | Pd
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 0.7 ml | O | H2O
product | 3-(2-Amino-1,1-dimethylethyl)-7-oxo-4-oxa-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | NCC(C)(C)C1=C(N2C(CC2O1)=O)C(=O)O | C10H14N2O4
